### PR TITLE
[Merged by Bors] - feat: Kleene's fixed point theorem

### PR DESCRIPTION
**Pull request by PhoenixIra**
Add the fixed point theorem for (omega) complete partial orders and Kleene's fixed point theorem for complete lattices.

---
Some comments regarding this PR:
- ~~I decided to use the function `Nat.repeat` as the approximation scheme. There are good reasons to do this and good reasons to use a function defined yourself. Since the lemmas `Nat.repeat_le` and `Nat.monotone_repeat` can be useful outside this theorem and the interpretation as a chain `repeatChain` was added anyway, I decided against an approximation definition, unlike how the fixed point theorems in `Mathlib.Control` do it.~~ I switched to `Nat.iterate`
- You could argue which version exactly is Kleene's fixed point theorem --- the one on omega complete partial order or on complete lattices. I have seen both. Since the source in omega complete partial order does not call it this way, I decided to call the complete lattice variant like this. But I have no strong feeling which to call Kleene's fixed point theorem.

I welcome any feedback and happy to incorporate them!

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/FixedPoints.lean [hunk 1]
```diff
@@ -314,3 +315,23 @@ instance completeLattice : CompleteLattice (fixedPoints f) where
...
+    apply le_antisymm
+    · apply lfp_le_fixed
+      exact Function.mem_fixedPoints.mp (ωSup_repeat_mem_fixedPoint ⟨f, h⟩ ⊥ bot_le)
+    · apply le_lfp
+      intro a h_a
+      exact ωSup_repeat_le_prefixedPoint ⟨f, h⟩ ⊥ bot_le h_a bot_le
+
+  theorem gfp_eq_sSup_repeat (h : Continuous (OrderHom.dual f)) :
+      gfp f = sInf { Nat.repeat f n ⊤ | n : Nat} :=
+    lfp_eq_sSup_repeat (OrderHom.dual f) h
```
Comment (alexjbest) [inline Mathlib/Order/FixedPoints.lean:335]:
```suggestion
open OmegaCompletePartialOrder fixedPoints

/-- **Kleenes fixed point Theorem**: The least fixed point in a complete lattice is
the supremum of iterating a function on bottom arbitrary often. -/
theorem lfp_eq_sSup_repeat (h : Continuous f) :
    lfp f = sSup { Nat.repeat f n ⊥ | n : Nat} := by
  apply le_antisymm
  · apply lfp_le_fixed
    exact Function.mem_fixedPoints.mp (ωSup_repeat_mem_fixedPoint ⟨f, h⟩ ⊥ bot_le)
  · apply le_lfp
    intro a h_a
    exact ωSup_repeat_le_prefixedPoint ⟨f, h⟩ ⊥ bot_le h_a bot_le

theorem gfp_eq_sSup_repeat (h : Continuous (OrderHom.dual f)) :
    gfp f = sInf { Nat.repeat f n ⊤ | n : Nat} :=
  lfp_eq_sSup_repeat (OrderHom.dual f) h
```

Comment (alexjbest) [reply Mathlib/Order/FixedPoints.lean:335]: we tend not to indent things at the top level (theorems etc)

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 2]
```diff
@@ -918,4 +919,58 @@ noncomputable def seq {β γ : Type v} (f : α →𝒄 Part (β → γ)) (g : α
...
+      have : f x = ((repeatChain f x h).map f) 0 := rfl
+      rw [this]
+      apply le_ωSup
+    case a.a.succ n =>
+      have : repeatChain f x h (n+1) = (repeatChain f x h).map f n := rfl
+      rw [this]
+      apply le_ωSup
+
+  /-- The supremum of iterating a function on x arbitrary often is smaller than any prefixed point-/
+  theorem ωSup_repeat_le_prefixedPoint (h : x ≤ f x) {a : α}
```
Comment (alexjbest) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:957]: same here!

**Comment by urkud** [comment]
Note that Mathlib mostly uses `Nat.iterate` instead of `Nat.repeat` (and has a file about `Monotone` and `Nat.iterate`). We should resolve this issue some day, but I think that it's better to stick to `iterate` for now.

**Comment by PhoenixIra** [comment]
I was already very irritated about the lack of proofs of `Nat.repeat`... The switch to `Nat.iterate` was surprising difficult (as `Nat.iterate` unfolds inwards) but it should be replaced everywhere.

Also, a documentation string on `Nat.repeat` to use `Nat.iterate` instead could be added in the short term.

File: Mathlib/Order/FixedPoints.lean [hunk 3]
```diff
@@ -315,4 +316,22 @@ instance completeLattice : CompleteLattice (fixedPoints f) where
   le_top x := f.le_gfp x.2.ge
   bot_le x := f.lfp_le x.2.le
 
+
+open OmegaCompletePartialOrder fixedPoints
+
+/-- **Kleenes fixed point Theorem**: The least fixed point in a complete lattice is
+the supremum of iterating a function on bottom arbitrary often. -/
+theorem lfp_eq_sSup_iterate (h : Continuous f) :
+    lfp f = sSup { f^[n] ⊥ | n : Nat} := by
```
Comment (YaelDillies) [inline Mathlib/Order/FixedPoints.lean:325]:
```suggestion
    lfp f = ⨆ n, f^[n] ⊥ := by
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 4]
```diff
@@ -897,4 +899,67 @@ noncomputable def seq {β γ : Type v} (f : α →𝒄 Part (β → γ)) (g : α
 
 end ContinuousHom
 
+namespace fixedPoints
+
+open Function
+
+/-- Iteration of a function on an initial element interpreted as a chain. -/
+def iterateChain (f : α →o α) (x : α) (h : x ≤ f x) : Chain α :=
+  ⟨fun n => f^[n] x, Monotone.monotone_iterate_of_le_map f.monotone h⟩
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:908]:
```suggestion
  ⟨fun n => f^[n] x, f.monotone.monotone_iterate_of_le_map h⟩
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 5]
```diff
@@ -897,4 +899,67 @@ noncomputable def seq {β γ : Type v} (f : α →𝒄 Part (β → γ)) (g : α
...
+    cases n
+    case a.a.zero =>
+      apply le_trans h
+      have : f x = ((iterateChain f x h).map f) 0 := rfl
+      rw [this]
+      apply le_ωSup
+    case a.a.succ n =>
+      have : iterateChain f x h (n.succ) = (iterateChain f x h).map f n := by {
+        apply Function.iterate_succ_apply'
+      }
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:936]:
```suggestion
      have : iterateChain f x h (n.succ) = (iterateChain f x h).map f n :=
        Function.iterate_succ_apply' ..
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 6]
```diff
@@ -897,4 +899,67 @@ noncomputable def seq {β γ : Type v} (f : α →𝒄 Part (β → γ)) (g : α
...
+    intro n
+    simp only [Chain.map_coe, OrderHomClass.coe_coe, comp_apply]
+    have : iterateChain f x h (n.succ) = f (iterateChain f x h n) := by {
+      apply Function.iterate_succ_apply'
+    }
+    rw [← this]
+    apply le_ωSup
+  · apply ωSup_le
+    intro n
+    cases n
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:927]:
```suggestion
    rintro (_ | n)
```
is more idiomatic

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 7]
```diff
@@ -897,4 +899,63 @@ noncomputable def seq {β γ : Type v} (f : α →𝒄 Part (β → γ)) (g : α
...
+theorem ωSup_repeat_mem_fixedPoint (h : x ≤ f x) :
+    ωSup (iterateChain f x h) ∈ fixedPoints f := by
+  rw [mem_fixedPoints, IsFixedPt, f.continuous]
+  apply le_antisymm
+  · apply ωSup_le
+    intro n
+    simp only [Chain.map_coe, OrderHomClass.coe_coe, comp_apply]
+    have : iterateChain f x h (n.succ) = f (iterateChain f x h n) := by {
+      apply Function.iterate_succ_apply'
+    }
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:922]:
```suggestion
    have : iterateChain f x h (n.succ) = f (iterateChain f x h n) := Function.iterate_succ_apply' ..
```

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 8]
```diff
@@ -897,4 +899,63 @@ noncomputable def seq {β γ : Type v} (f : α →𝒄 Part (β → γ)) (g : α
...
+    rw [← this]
+    apply le_ωSup
+  · apply ωSup_le
+    rintro (_ | n)
+    · apply le_trans h
+      have : f x = ((iterateChain f x h).map f) 0 := rfl
+      rw [this]
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:929]: Can you use `change` here instead?

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 9]
```diff
@@ -1,12 +1,14 @@
...
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Simon Hudon
+Authors: Simon Hudon, Ira Fesefeldt
 -/
 import Mathlib.Control.Monad.Basic
 import Mathlib.Order.Chain
 import Mathlib.Order.Hom.Order
 import Mathlib.Order.Part
+import Mathlib.Dynamics.FixedPoints.Basic
+import Mathlib.Order.Iterate
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:11]:
```suggestion
import Mathlib.Dynamics.FixedPoints.Basic
import Mathlib.Order.Chain
import Mathlib.Order.Hom.Order
import Mathlib.Order.Iterate
import Mathlib.Order.Part
```
Please keep imports somewhat alphabetical

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 10]
```diff
@@ -897,4 +899,60 @@ noncomputable def seq {β γ : Type v} (f : α →𝒄 Part (β → γ)) (g : α
...
+    · apply le_trans h
+      change ((iterateChain f x h).map f) 0 ≤ ωSup ((iterateChain f x h).map (f : α →o α))
+      apply le_ωSup
+    · have : iterateChain f x h (n.succ) = (iterateChain f x h).map f n :=
+        Function.iterate_succ_apply' ..
+      rw [this]
+      apply le_ωSup
+
+/-- The supremum of iterating a function on x arbitrary often is smaller than any prefixed point-/
+theorem ωSup_iterate_le_prefixedPoint (h : x ≤ f x) {a : α}
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:935]: What's `prefixedPoint` referring to?

Comment (PhoenixIra) [reply Mathlib/Order/OmegaCompletePartialOrder.lean:935]: A prefixed Point is usually defined as a value `a` with `f a ≤ a`. In this theorem, `prefixedPoint` thus refers to the value `a` as we require that `f a ≤ a`. I am open to other names.

Comment (YaelDillies) [reply Mathlib/Order/OmegaCompletePartialOrder.lean:935]: I think the name is okay, but do explain it in the docstring since it doesn't refer to any Lean declaration

**Comment by jcommelin** [comment]
bors d=yaeldillies

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 11]
```diff
@@ -897,4 +899,62 @@ noncomputable def seq {β γ : Type v} (f : α →𝒄 Part (β → γ)) (g : α
...
+  intro n
+  induction n with
+  | zero => exact h_x_le_a
+  | succ n h_ind =>
+    have : iterateChain f x h (n.succ) = f (iterateChain f x h n) :=
+      Function.iterate_succ_apply' ..
+    rw [this]
+    exact le_trans (f.monotone h_ind) h_a
+
+/-- The supremum of iterating a function on x arbitrary often is smaller than any fixed point-/
```
Comment (YaelDillies) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:950]:
```suggestion
/-- The supremum of iterating a function on x arbitrary often is smaller than any fixed point. -/
```

**Review by YaelDillies — APPROVED** [review]
Sorry for the delay, this dropped off my radar 🙈 

bors merge
